US07642264B2
3-{4-[4-Trifluoromethyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonamide
To a cooled and stirred solution of N-tert-butyl-3-{4-[4-trifluoromethyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonamide (0.22 g) in dichloromethane (5 ml) was added TFA (5 ml) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness, poured into saturated NaHCO3 solution (20 ml) and extracted with ethyl acetate (2×30 ml). The combined organic layers were washed with brine (20 ml), dried (MgSO4) and evaporated. Further purification by crystallization (diethyl ether) yielded the title compound as an off-white solid (0.14 g, 65%). MS (ISP) 525.2 [(M+H)+]; mp 244° C.

reactant | N-tert-butyl-3-{4-[4-trifluoromethyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonamide | 0.22 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC=CC(=C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F | C27H22F6N4O2S
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-{4-[4-Trifluoromethyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonamide | 0.14 g, 65% | FC(C1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C1=CC(=NC=C1)C=1C=C(C=CC1)S(=O)(=O)N)(F)F | C23H14F6N4O2S
